.param P_Drive = 0.5
.param P_Tone = 1
.param P_Level = 0.5
.include "/workspace/SPICEyPedals/tools/../PartModels/MicroCap-LIBRARY-for-ngspice/On_Semi.lib"
* generated from Boss Super Overdrive SD-1.schx
VCC VCC 0 DC 9
VIN IN 0 SIN(0 50m 500)
CC1 N19 IN 18n
RR1 VB N19 100k
CCc N3 N4 47p
CCz 0 N20 47n
RR2 N3 N20 4.7k
RR3 N3 N18 33k
RDrive N4 N18 {1meg * P_Drive}
RR5 N4 N6 10k
CC4 N7 0 18n
RToneA N22 N23 {22k * (1-P_Tone)}
RToneB N23 N24 {22k * P_Tone}
CC5 N9 N24 27n
RR7 N9 0 470
RR8 N11 N23 10k
CC6 N11 N17 1u
RLevelA 0 N16 {10k * (1-P_Level)}
RLevelB N16 N26 {10k * P_Level}
RR11 N13 VB 10k
RS1 0 N16 8
RR10 N17 N26 4.7k
CC3 N27 N28 10n
DD1 N3 N4 1N916
DD2 N3 N29 1N916
DD3 N4 N29 1N916
.tran 2u 100m 80m
.op
.control
  run
  quit
.endc
.end
